US06455528B1
Synthesis of N-(2-Chloro-4-((4-(4-fluorophenyl)-piperazin-1-yl)methyl)phenylmethyl)acetamide
To an aqueous solution (2 ml) of sodium nitrite (213 mg) was added a solution of N-(2-amino-4-((4-(4-fluorophenyl)piperazin-1-yl)methyl)phenylmethyl)acetamide (1.1 g) in conc. hydrochloric acid (5 ml) under ice-cooling. This mixture was stirred at the same temperature for 40 min. The reaction mixture was added to a solution of copper(I) chloride (183 mg) in conc. hydrochloric acid (2 ml) over 10 min. The mixture was stirred at room temperature for 2 hr. The reaction mixture was poured into aqueous sodium hydroxide solution and extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated to give a green oil (1.4 g). The obtained green oil was purified by silica gel column chromatography (developing solvent ; chloroform:methanol=20:1) to give a pale-brown solid (0.9 g). This pale-brown solid was crystallized from ethyl acetate/hexane to give the title compound (0.75 g) as yellow crystals.

reactant | sodium nitrite | 2 ml, 213 mg | N(=O)[O-].[Na+]
reactant | N-(2-amino-4-((4-(4-fluorophenyl)piperazin-1-yl)methyl)phenylmethyl)acetamide | 1.1 g | NC1=C(C=CC(=C1)CN1CCN(CC1)C1=CC=C(C=C1)F)CNC(C)=O | C20H25FN4O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | 5 ml | Cl | ClH
reactant | hydrochloric acid | 2 ml | Cl | ClH
catalyst | copper(I) chloride | 183 mg | [Cu]Cl
product | N-(2-Chloro-4-((4-(4-fluorophenyl)-piperazin-1-yl)methyl)phenylmethyl)acetamide | 1.4 g | ClC1=C(C=CC(=C1)CN1CCN(CC1)C1=CC=C(C=C1)F)CNC(C)=O | C20H23ClFN3O
